US04041173
20 G. of 2,5-bis(carbomethoxy)benzyltriphenylphosphonium bromide and 7.65 g. of m-methoxybenzaldehyde were added to 100 ml of acetonitrile and 22 ml of diazabicyclononene was added. After 16 hours the mixture was added to water and extracted with ethyl acetate. The extract was washed, dried and evaporated. The residue was refluxed for 1 hour in 250 ml of methanol and 250 ml of water containing 10 g. of potassium hydroxide. The solution was cooled and extracted with chloroform. The aqueous layer was acidified with dilute hydrochloric acid and extracted with ethyl acetate. The extract was washed, dried and evaporated to afford cis and trans 3'-methoxystilbene-2,5-dicarboxylic acid. 7.8 G. of this compound was hydrogenated for 11/2 hours in 800 ml of ethanol containing 1.5 g. of 5% palladium on carbon catalyst. The solution was filtered and evaporated to give 2-(m-methoxyphenethyl)-benzene-1,4-dicarboxylic acid which was cyclized according to the procedure set forth in Example I, A to afford 2-carboxy-8-methoxy-10,11-dihydro-5-oxo-5H-dibenzo[a,d]cycloheptene having a m.p. of 220°-222° C. Similarly, other 8-substituted compounds of this invention may be obtained by reacting 2,5-bis(carbomethoxy) benzyltriphenylphosphonium bromide with a m-substituted benzaldehyde having a halogen such as fluoro, chloro or bromo, a lower alkyl of 1-4 carbons, or a lower alkoxy such as ethoxy, n-propoxy, isopropoxy, n-butoxy, isobutoxy, n-pentyloxy, n-hexyloxy and the like. By reacting an o-substituted benzaldehyde or a p-substituted benzaldehyde with 2,5-bis(carbomethoxy) benzyltriphenylphosphonium bromide a 2-carboxy-9-substituted-10,11-dihydro-5-oxo-5H-dibenzo[a,d]cycloheptene or a 2-carboxy-7-substituted 10,11-dihydro-5-oxo-5 H-dibenzo[a,d]cycloheptene is obtained, respectively. For example 2-carboxy-7-methyl-10,11-dihydro-5-oxo-5H-dibenzo[a,d]cycloheptene having a m.p of 235° C. was obtained from p-methylbenzaldehyde; 2-carboxy-8-methyl-10,11-dihydro-5-oxo-5H-dibenzo[a,d]cycloheptene having a m.p. of 196°-197° C. was obtained from m-methylbenzaldehyde; and 2-carboxy-9-methyl-10,11-dihydro-5-oxo-5H-dibenzo[a,d]cycloheptene having a m.p. of 232°-234° C. was obtained from o-methylbenzaldehyde.

reactant | 2,5-bis(carbomethoxy)benzyltriphenylphosphonium bromide | [Br-].C(=O)(OC)C1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C=C1)C(=O)OC
reactant | m-methoxybenzaldehyde | COC=1C=C(C=O)C=CC1 | C8H8O2
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
reactant | diazabicyclononene | 22 ml | C1(=NNCCCCCC1)C1=CCCCCCCC1 | C16H28N2
solvent | water | O | H2O
product | trans 3'-methoxystilbene-2,5-dicarboxylic acid | COC=1C=C(/C=C/C=2C(=CC=C(C2)C(=O)O)C(=O)O)C=CC1 | C17H14O5
